US06727264B1
2-METHYL-N-(3-{1-[(3S)-3-({[2-(METHYLSULFANYL)ANILINO]CARBONYL}AMINO)-3-PHENYLPROPYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure P and Scheme AB using 1-isocyanato-2-(methylsulfanyl)benzene and N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide: ESMS m/e: 545.0 (M+H)+.

reactant | 1-isocyanato-2-(methylsulfanyl)benzene | N(=C=O)C1=C(C=CC=C1)SC | C8H7NOS
reactant | N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | N[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C24H33N3O
product | 2-METHYL-N-(3-{1-[(3S)-3-({[2-(METHYLSULFANYL)ANILINO]CARBONYL}AMINO)-3-PHENYLPROPYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CC[C@@H](C1=CC=CC=C1)NC(=O)NC1=C(C=CC=C1)SC)C | C32H40N4O2S
